US05939447
Methyl 4-(4-oxo-4-Phenylbutoxy)Benzoate Ethylene Acetal.
Crude 2-phenyl-2-(3-chloropropyl)-1,3-dioxolane (21.0 g), potassium carbonate (14.0 g; 0.101 moles) and methyl 4-hydroxybenzoate (14.0 g, 0.092 moles) were heated in dimethylformamide (100 ml) for 21 hours. The mixture was diluted with water (250 ml) and extracted with dichloromethane (500 ml). The dichloromethane extract was washed with saturated sodium bicarbonate solution and then with water. The organic extract was concentrated in vacuo to give the product as a brown solid (27.3 g).

reactant | 2-phenyl-2-(3-chloropropyl)-1,3-dioxolane | 21.0 g | C1(=CC=CC=C1)C1(OCCO1)CCCCl | C12H15ClO2
reactant | potassium carbonate | 0.101 moles, 14.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-hydroxybenzoate | 0.092 moles, 14.0 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
product | Methyl 4-(4-oxo-4-Phenylbutoxy)Benzoate Ethylene Acetal | 27.3 g | C1COC(C2=CC=C(C=C2)OCCCC(C2=CC=CC=C2)=O)(OC)O1 | C20H22O5
